datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][NH:10]C(C9=CC=CC=C9)C([H])[O][C:20]([NH][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])[O]1)[C:20]1([NH:21][H])[NH][H] 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH]C(CC)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C(CC)C(C8=CC=CC=C8)[O]2.[H][NH:10][H] 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C([O-:21])CC)CC)[H]>>CCCCCCN([C:20]1(OC(C([O:21]1)CC)CC)[O-:10])[H] 21=20;20,10=10"
"[O-:10]C([H])C([H])C(C)C([H])[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])C(C)C([H])C([H])[O:10]1 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH][C:20]([O]CC)=[NH+:21]CC 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C(C)[CH](C)[O]1 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"[O:20]=[C:21](OC)OCCCCCC.C1=CC=CC=C1[O:10][K]>>C1=CC=CC=C1[O+:10]([K])[C:21]([O-:20])(OC)OCCCCCC 10=21;21,20=20"
"C[O+:21]=[C:20]2[S][CH]([H])[CH]([H])C(C)[S]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[S][CH]([H])C([H])[CH](C)[S]1 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[NH]C(CC)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(CC)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C7=CC=CC=C7)C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O]C(C)C(CC)[S]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21][H])[O]C(C)C(CC)[S]1 10=20;20,21=21"
"[O-:21][C:20]1(C)C([H])C(C)=C(C)C(CCC)[O+:10]1([K])>>[O:10]([K])C(CCC)/C(C)=C(C)\C([H])[C:20](C)=[O:21] 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OCCCCCC)CC.[O-:21]C1=CC=CC=C1>>CCCCCCN([C:20]([O-:10])(OCCCCCC)[O:21]C1=CC=CC=C1)CC 21=20;20,10=10"
"[O:10]([K])C(C)/C(C)=C([H])\C(C)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)C([H])=C(C)C(C)[O+:10]1([K]) 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC)C.[O-:21]CC>>CCCCCCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)CC)C 21=20;20,10=10"
"CC1C(C(O[C:20](=[O:10])N1C)CCCCCC)CC.[O-:21]CCCCCC>>CC1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)CCCCCC)CC 21=20;20,10=10"
"[H][NH:10]C([H])C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH](C)[NH]1 10=20;20,21=21"
"[H][O+:10]([H])[C:20]([O:21][H])([S][H])[S]CC.[Cl-]>>[Cl-].[H][O:10][H].[H][O+:21]=[C:20]([S][H])[S]CC 21=20;20,10=10"
"[H][S+:10](C([H])C([H])C(C)[O]1)[C:20]1([O:21][H])[O]C.[Cl-]>>[Cl-].[H][S:10]C([H])C([H])C(C)[O][C:20]([O]C)=[O+:21][H] 21=20;20,10=10"
"C[S+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH]([H])[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C([H])[S]2.C[S:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]C8=CC=CC=C8)[NH][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH][H] 21=20;20,10=10"
"[H][NH:10]C([H])C(C)C(CC)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C)C(CC)[NH]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C(C)C(C)[NH]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"[OH:21][CH:20]2(C)C3=C(C(C([OH+:10]2)[H])O)C=CC=C3>>[OH:10]C(C(C1=C(C=CC=C1)[CH:20](C)=[OH+:21])O)[H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]C)[O]C([H])C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O]C([H])C(C8=CC=CC=C8)[O]2.[H][O:10][H] 21=20;20,10=10"
"[H][O+:10]([Na])[C:21]([O-:20])(OC)OC>>[O:20]=[C:21](OC)OC.[H][O:10][Na] 20=21;21,10=10"
"C[O+:21]=[C:20]2[O]C(CC)C([H])[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21]C)[O]C(CC)C([H])[S]1 10=20;20,21=21"
"[OH:21][C:20]1(OCC)C(O)C(C)C(C)C(CCC)[OH+:10]1>>[OH:10]C(CCC)C(C)C(C)C(O)[C:20](OCC)=[OH+:21] 21=20;20,10=10"
"[H][O+:10](C([H])C(C)C(CC)[O]1)[C:20]1([O:21]C)[O]C.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(CC)[O][C:20]([O]C)=[O+:21]C 21=20;20,10=10"
"[NH:10](C)C([H])C(C)/C(C)=C([H])\[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])=C(C)C(C)C([H])[NH+:10]1(C) 10=20;20,21=21"
"[H][NH+:10](C(C)C([H])C(C)[NH]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])C(C)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"[OH:21][C:20]1([H])C(C)C(C)=C([H])C(C)[OH+:10]1>>[OH:10]C(C)/C([H])=C(C)\C(C)[C:20]([H])=[OH+:21] 21=20;20,10=10"
